US09238644B2
(a) 1-(2-((2-Chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide (A39)
A mixture of 1-(2-ethynylphenyl)cyclopropanecarboxamide K6 (2.29 g, 12.4 mmol), 2,4-dichloro-5-methylpyrimidine (2.62 g, 16.1 mmol), CuI (0.047 g, 0.25 mmol) and PdCl2(PPh3)2 (0.087 g, 0.12 mmol) in dioxane (25 mL) was bubbled with N2 for 10 minutes. Et3N (10 mL) was added and the mixture was stirred under nitrogen at 70° C. for 1 hour. The reaction mixture was cooled and adsorbed onto silica. Purification by column chromatography (Biotage Isolera, 120 g SiO2, 0-10% MeOH in CHCl3) gave the title compound A39 as a yellow oil (1.85 g, 48%). LCMS-D: rt 3.24 min; m/z 312 [M+H]+.

reactant | 1-(2-ethynylphenyl)cyclopropanecarboxamide | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)N | C12H11NO
reactant | 2,4-dichloro-5-methylpyrimidine | 16.1 mmol, 2.62 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.25 mmol, 0.047 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.12 mmol, 0.087 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-((2-Chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C1(CC1)C(=O)N)C | C17H14ClN3O
